US05576419
Preparation of Fmoc-Gly-Allyl Resin
0.848 g Fmoc-Nle (2.4 mmol) was coupled to 2.0 g MBHA resin (1.6 mmol) with 0.367 g HOBt (2.4 mmol) and 0.373 mL DIPCDI (2.4 mmol) in 20 mL DCM-DMF (1:1) for 2.3 h. The resin was washed 3 times with DMF, deprotected with 20 mL piperidine-DMF (1:1) for 30 min, and washed 3 times with DMF. 1.82 g allyl linker (3.2 mmol) was coupled to the resin with 0.489 g HOBt (3.2 mmol) and 0.497 mL DIPCDI (3.2 mmol) in 20 mL DMF for 18.5 h. The resin was washed 1 time with DMF and 2 times with DCM, deprotected twice with 20 mL TFA-DCM (9:1), first for 20 min, then for 10 min, washed 3 times with DCM, neutralized with 20 mL DIEA-DCM (1:9) for 15 min, and washed 1 time with DCM and 2 times with DMF. 1.43 g Fmoc-Gly (4.8 mmol) was esterified to the allyl resin with 0.735 g HOBt (4.8 mmol), 0.746 mL DIPCDI (4.8 mmol), and 0.059 g DMAP (0.48 mmol) in 20 mL DMF for 6.5 h. The resin was washed 1 time with DMF and 2 times with DCM and stored under vacuum overnight.

reactant | Fmoc-Nle | 2.4 mmol, 0.848 g | N([C@@H](CCCC)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
reactant | MBHA resin | 1.6 mmol, 2.0 g | CC1=CC=C(C=C1)C(C2=CC=CC=C2)N.C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.Cl
reactant | HOBt | 2.4 mmol, 0.367 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPCDI | 2.4 mmol, 0.373 mL | CC(C)N=C=NC(C)C | C7H14N2
reactant | HOBt | 3.2 mmol, 0.489 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPCDI | 3.2 mmol, 0.497 mL | CC(C)N=C=NC(C)C | C7H14N2
reactant | Fmoc-Gly | 4.8 mmol, 1.43 g | N(CC(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C17H15NO4
reactant | HOBt | 4.8 mmol, 0.735 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPCDI | 4.8 mmol, 0.746 mL | CC(C)N=C=NC(C)C | C7H14N2
solvent | DCM DMF | 20 mL | C(Cl)Cl.CN(C)C=O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.48 mmol, 0.059 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Fmoc-Gly-Allyl | N(CC(=O)CC=C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H19NO3
